US07893056B2
Ethyl 1-acetylcyclopropanecarboxylate (6.4273 g, 41.153 mmol) was dissolved in 46 mL of EtOH. Bromine (2.32 mL, 45.2683 mmol) was slowly added to the solution. The resulting reaction mixture was stirred for 2 h, then concentrated in vacuo. The crude residue was dissolved in 46 mL of EtOH and the mixture was cooled to 0° C. with an ice water bath. To this solution was slowly added benzyl amine (11.2 mL 102.8825 mmol) and the reaction mixture was stirred at room temperature overnight, then concentrated in vacuo to dryness. The residue was dissolved in CH2Cl2 (200 mL) and 1N aq HCl (100 mL). The phases were separated, and the aqueous phase was extracted with CH2Cl2 (100 mL), the combined organic phase was dried over anhydrous MgSO4, filtered, and concentrated in vacuo. Purification by chromatography on silica gel using an eluting system of hexane/EtOAc (60:40) provided 5-(phenylmethyl)-5-azaspiro[2.4]heptane-4,7-dione (2.4283 g 27%) as an orange solid. LCMS: (M+H)+: not detected.

reactant | Ethyl 1-acetylcyclopropanecarboxylate | 41.153 mmol, 6.4273 g | C(C)(=O)C1(CC1)C(=O)OCC | C8H12O3
reactant | Bromine | 45.2683 mmol, 2.32 mL | BrBr | Br2
reactant | benzyl amine | 102.8825 mmol, 11.2 mL | C(C1=CC=CC=C1)N | C7H9N
solvent | EtOH | 46 mL | CCO | C2H6O
product | 5-(phenylmethyl)-5-azaspiro[2.4]heptane-4,7-dione | 2.4283 g, 27% | C1(=CC=CC=C1)CN1C(C2(CC2)C(C1)=O)=O | C13H13NO2
